* AD8476 SPICE Macro-model
* Description: Amplifier
* Generic Desc: Low Power, Unity Gain (resistors integrated), Fully Differential Precision Amplifier and ADC driver.
* Developed by: ADI - LPT
* 
* Revision History:
* 0(05/2012) - BZ (Initial Rev)
* A(11/2012) - FB (Modified pinout to match datasheet. Fixed errors from first rev.)
* B(01/2015) - SH (Bug fixes and performance improvements.)
* Copyright 2012 by Analog Devices, Inc.
* 
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
*
* BEGIN Notes:
*
* Not Modeled:
*   Temperature effects
*   Harmonic Distortion
*
* Parameters modeled include:
*   Supply current incl load
*   Offset voltage
*   PSRR vs frequency
*   Output swing vs load
*   Input Common-Mode Voltage Range
*   Bandwidth
*   Pulse Response variation with cap load
*   Noise incl 1/f
*   VOCM Bandwidth
*   Slew rate
*   Gain error and gain resistance
*
* Supply range:
*    Single Supply: 3V to 18V
*    Dual Supplies: +/-1.5V to +/-9V
*
* END Notes
*
* Node assignments
*                Negative input
*                |     Postive Supply
*                |     |    Output Common Mode Adjust
*                |     |    |     Non-inverting Output
*                |     |    |     |    Inverting Output
*                |     |    |     |    |    No connect
*                |     |    |     |    |    |    Negative Supply
*                |     |    |     |    |    |    |    Positive Input
*                |     |    |     |    |    |    |    |   
*                |     |    |     |    |    |    |    |     
*                |     |    |     |    |    |    |    |   
.SUBCKT AD8476  INN  +VS  VOCM  +OUT  -OUT  NC  -VS  INP  
*
*** GAIN RESISTORS AND INPUT CLAMPS ***
R1 4 INP 9.999e3
R2 16 INN 9.999e3
VSNS4 VX2 131 0
R14 131 16 10.000075870868e3
VSNS3 VX1 130 0
R15 130 4 10.00001131331e3
*
DC1 4 110 DX
V6 VP 110 1.05
DC2 111 4 DX
V7 111 VN 0.05
*
*** DIFFERENTIAL GAIN AND DOMINANT POLE ***
G1 13 18 4 16 -.00043
R16 13 18 1e9
G3 0 VX1 VMID 13 .0063
G4 0 VX2 VMID 18 .0063
C1 9 13 21.0e-12
C2 23 18 21.0e-12
R19 VX1 9 200
R20 VX2 23 200
R11 VX1 0 1e9
R12 0 VX2 1e9
*
*** COMMON-MODE GAIN AND VOCM BW ***
E5_VOCM_ERROR 32 VOCM VOCM 0 .2e-3
R7 +VS 32 1e6
R8 32 -VS 1e6
V3 31 32 -10e-6
E1_balance 30 31 +OUT -OUT 99.7927e-6
R5 15 VX2 25e3
R6 VX1 15 25e3
G2 0 18 15 30 .00015
R9 18 0 1e9
C3 18 0 1e-18
G5 0 13 15 30 .00015
R10 13 0 1e9
C4 13 0 1e-18
*
*** NOISE ***
V_Noise 1 0 0
R13 1 0 .0166
DN1 2 1 DN
VN1 0 2 0.2
H1_Noise -OUT 8 V_Noise -15.2
H2_Noise +OUT 27 V_Noise 15.2
*
*** CMRR SECTION ***
R34 40 0 2
C11 40 39 100e-9
R35 48 0 2
C12 48 41 100e-9
E11 39 0 42 0 1
R36 40 39 1000
E12 41 0 40 0 1
R37 48 41 1000
R38 44 0 2
C13 44 43 20e-9
R39 46 0 2
C14 46 45 20e-9
E13 43 0 42 0 1
R40 44 43 1000
E14 45 0 44 0 1
R41 46 45 1000
E15 12 11 46 0 -7e-4
E16 26 25 48 0 7e-4
R44 INP 42 1e6
R45 42 INN 1e6
*
*** PSRR SECTION ***
R23 34 0 46
C5 34 33 1e-9
R27 47 0 46
C8 47 35 1e-9
E4 33 0 +VS -VS 1
R21 34 33 1000
E5 35 0 34 0 1
R22 47 35 1000
R24 37 0 46
C6 37 36 1e-9
R25 49 0 46
C7 49 38 1e-9
E3 36 0 +VS -VS 1
R26 37 36 1000
E6 38 0 37 0 1
R28 49 38 1000
E7 11 10 49 0 -8.173e-3
E8 25 24 47 0 8.173e-3
*
*** REFERENCE AND SUPPLY CURRENT ***
GSY +VS -VS POLY(1) +VS -VS 270.375e-6 4.925e-6
DZS1 101 +VS DZ
DZS2 -VS 102 DZ
FS1 100 0 VSNS1 -1
DSP1 101 106 DX
VSRCP 106 100 0
DSN1 107 102 DX
VSNKP 100 107 0
FS2 103 0 VSNS2 -1
DSP2 101 108 DX
VSRCN 108 103 0
DSN2 109 102 DX
VSNKN 103 109 0
FS3 104 0 VSNS3 1
DSP3 101 104 DX
DSN3 104 102 DX
FS4 105 0 VSNS4 1
DSP4 101 105 DX
DSN4 105 102 DX
*
EMID VMID 0 POLY(2) +VS 0 -VS 0 0 0.5 0.5
EVP VP 0 +VS 0 1
EVN 0 VN 0 -VS 1
*
*** SLEW RATE ***
G10 0 VZ1 VX1 VY1 1e-3
RZ1 0 VZ1 1e9
DSLEW1 VC1 0 DZ
DSLEW2 VC1 VZ1 DZ
GZ1 0 VY1 VZ1 0 200e-9
C10 0 VY1 1e-12
R33 VY1 0 1e9
E9 6 0 VY1 0 1
*
G11 0 VZ2 VX2 VY2 1e-3
RZ2 0 VZ2 1e9
DSLEW3 VC2 0 DZ
DSLEW4 VC2 VZ2 DZ
GZ2 0 VY2 VZ2 0 200e-9
C9 0 VY2 1e-12
R31 VY2 0 1e9
E10 20 0 VY2 0 1
*
*** OUTPUT STAGE WITH EXTRA POLES AND CAP RESPONSE ***
VOS- 10 6 27.158e-6
VOS+ 24 20 -27.158e-6
VSNS2 8 5 0
VSNS1 27 22 0
D1 21 19 DX
D2 28 21 DX
D3 140 7 DX
D4 7 141 DX
H1 28 VN POLY(1) VSNKP 0.16 0 2041
H2 VP 19 POLY(1) VSRCP 0.185 0 2041
H3 140 VN POLY(1) VSNKN 0.16 0 2041
H4 VP 141 POLY(1) VSRCN 0.185 0 2041
*
G8 0 120 7 5 1
R50 120 0 1e9
C50 120 0 15.75e-9
G9 0 5 120 0 2.5e-3
R51 5 0 400
C51 5 0 114e-12
G12 0 121 21 22 1
R52 121 0 1e9
C52 121 0 15.75e-9
G13 0 22 121 0 2.5e-3
R53 22 0 400
C53 22 0 114e-12
*
G6 0 7 12 0 1e-3
G7 0 21 26 0 1e-3
R29 7 0 1e3
R30 21 0 1e3
*
R32 NC 0 1e6
*
.MODEL DX D(IS=1e-15 N=0.1)
.MODEL DN D(IS=1e-15 KF=8.17e-5)
.MODEL DZ D(IS=1e-15 BV=24.5 RS=0.1)
*
.ends AD8476
*$
